US07851473B2
(1) tert-Butyl 4-[3-(3-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate
To a solution of 5-chloro-3-(3-thienyl)-1,2,4-thiadiazole (2.47 g, 12.2 mmol) and tert-butyl piperazine-1-carboxylate (2.27 g, 12.2 mmol) in dimethylformamide (25 ml) was added triethylamine (6.8 ml, 48.8 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=9:1) to give 3.72 g (86.5%) of the desired product as a solid.

reactant | 5-chloro-3-(3-thienyl)-1,2,4-thiadiazole | 12.2 mmol, 2.47 g | ClC1=NC(=NS1)C1=CSC=C1 | C6H3ClN2S2
reactant | tert-butyl piperazine-1-carboxylate | 12.2 mmol, 2.27 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 48.8 mmol, 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[3-(3-thienyl)-1,2,4-thiadiazol-5-yl]piperazine-1-carboxylate | 3.72 g, 86.5% | S1C=C(C=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H20N4O2S2
